US04044017
0.40 g of 5-chloro-2'-fluoro-2-{5-[(N-benzyloxycarbonyl-L-leucyl)aminomethyl]-1-imidazolyl}benzophenone was treated with a 35% solution of hydrogen bromide in glacial acetic acid for 45 minutes. Dry diethyl ether was then added, an oily solid being obtained. The product was precipitated from methanol/ethyl acetate, dissolved in water and freeze-dried. There was obtained 5-chloro-2'-fluoro-2-[5-(L-leucylaminomethyl)-2-methyl-1-imidazolyl]benzophenone dihydrobromide in a yield of 0.25 g (60%); [α]D20 = -5.5° (c = 0.2708 in water).

reactant | 5-chloro-2'-fluoro-2-{5-[(N-benzyloxycarbonyl-L-leucyl)aminomethyl]-1-imidazolyl}benzophenone | 0.40 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)N1C=NC=C1CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C31H30ClFN4O4
reactant | hydrogen bromide | Br | BrH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-chloro-2'-fluoro-2-[5-(L-leucylaminomethyl)-2-methyl-1-imidazolyl]benzophenone dihydrobromide | Br.Br.ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)N1C(=NC=C1CNC([C@@H](N)CC(C)C)=O)C | InChI=1S/C24H26ClFN4O2.2BrH/c1-14(2)10-21(27)24(32)29-13-17-12-28-15(3)30(17)22-9-8-16(25)11-19(22)23(31)18-6-4-5-7-20(18)26;;/h4-9,11-12,14,21H,10,13,27H2,1-3H3,(H,29,32);2*1H/t21-;;/m0../s1
